US08003796B2
Step B. Preparation of 4-(3,3,3-trifluoropropyl)phenol
A solution of (E)-1-(benzyloxy)-4-(3,3,3-trifluoroprop-1-enyl)benzene (305 mg, 1.096 mmol) and palladium on carbon (305 mg, 10 wt. %, wet, Aldrich) in MeOH (15 mL) and THF (5 mL) was placed under hydrogen (1 Atm) for 4 hrs. The resulting mixture was diluted with CH2Cl2 and filtered through a pad of CELITE® 545 filter aid. The filtrate was evaporated under reduced pressure and then purified by flash chromatography on silica gel (0 to 30% EtOAc/hexanes) to yield the title compound (151 mg, 72%) as a colorless oil. MS (ESI) 189 (M−H).

reactant | (E)-1-(benzyloxy)-4-(3,3,3-trifluoroprop-1-enyl)benzene | 1.096 mmol, 305 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\C(F)(F)F | C16H13F3O
catalyst | palladium on carbon | 305 mg | [Pd] | Pd
solvent | MeOH | 15 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3,3,3-trifluoropropyl)phenol | 151 mg, 72% | FC(CCC1=CC=C(C=C1)O)(F)F | C9H9F3O
